US05952362
7. Preparation of N-(6-chloro-3-cyanomethoxy-2-methylphenyl)methanesulfonamide
(3-amino-4-chloro-2-methylphenoxy)acetonitrile (4.76 g) was dissolved in pyridine (45 mL) under an atmosphere of nitrogen and cooled in an ice bath. Methanesulfonyl chloride (2.06 mL) was added dropwise, and then the mixture was allowed to stir overnight at room temperature. The reaction mixture was evaporated to dryness under reduced pressure to afford a residue which was flash chromatographed on silica and eluted with, first ethyl acetate:hexane (1:2), then with ethyl acetate:hexane (1:1) to afford 5.36 g as an 80:20 mixture of mono and bis mesylated product, respectively. This mixture was used in the next step without any further purification.

reactant | (3-amino-4-chloro-2-methylphenoxy)acetonitrile | 4.76 g | NC=1C(=C(OCC#N)C=CC1Cl)C | C9H9ClN2O
reactant | Methanesulfonyl chloride | 2.06 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-chloro-3-cyanomethoxy-2-methylphenyl)methanesulfonamide | ClC1=CC=C(C(=C1NS(=O)(=O)C)C)OCC#N | C10H11ClN2O3S
